US07825131B2
3-Amino-4-(3-fluorophenyl)-6-methoxyquinoline-2-(1H)-one
To a solution of 3-amino-1-(2,4-dimethoxybenzyl)-4-(3-fluorophenyl)-6-methoxyquinolin-2-(1H)-one (62 mg, 0.143 mmol) in 3 mL of trifluoroacetic acid was added dimethyl sulfide (0.30 mL). After stirring for 2 days, the reaction was heated to reflux for 3 hours, then concentrated in vacuo. The crude residue was purified by flash chromatography through SiO2 (1-3% MeOH/CH2Cl2) to provide the titled product as a yellow solid. Proton NMR for the product was consistent with the titled compound. HRMS (ES) exact mass calculated for C16H13FN2O2 (M+H+): 285.1034. Found 285.1029.

reactant | 3-amino-1-(2,4-dimethoxybenzyl)-4-(3-fluorophenyl)-6-methoxyquinolin-2-(1H)-one | 0.143 mmol, 62 mg | NC=1C(N(C2=CC=C(C=C2C1C1=CC(=CC=C1)F)OC)CC1=C(C=C(C=C1)OC)OC)=O | C25H23FN2O4
reactant | dimethyl sulfide | 0.30 mL | CSC | C2H6S
solvent | trifluoroacetic acid | 3 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 3-Amino-4-(3-fluorophenyl)-6-methoxyquinoline-2-(1H)-one | NC=1C(NC2=CC=C(C=C2C1C1=CC(=CC=C1)F)OC)=O | C16H13FN2O2
